US09023840B2
Step 1: 4-chloro-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide
Oxalyl chloride (250.0 μL, 2.954 mmol) was added to a solution of 4-chloro-2,5-difluorobenzoic acid (0.0578 g, 0.300 mmol) in dichloromethylene (3 mL), followed by 15 μL of DMF. The mixture was stirred at room temperature for 1 hour. The volatiles were removed under reduced pressure. The residue was diluted with dichloromethylene (5 mL). To the solution was added potassium carbonate (82.9 mg, 0.600 mmol) in water (1 mL), and (1R)-1-cyclopropylethanamine (41.6 μL, 0.450 mmol). The mixture was stirred at room temperature for 30 minutes, and diluted with DCM, washed with water and brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to afford the desired product (0.075 g, 96%) which was directly used in the next step reaction without further purification. LCMS (M+H)+: m/z=260.0.

reactant | Oxalyl chloride | 2.954 mmol, 250.0 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-2,5-difluorobenzoic acid | 0.300 mmol, 0.0578 g | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
reactant | potassium carbonate | 0.600 mmol, 82.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (1R)-1-cyclopropylethanamine | 0.450 mmol, 41.6 μL | C1(CC1)[C@@H](C)N | C5H11N
solvent | water | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 μL | CN(C)C=O | C3H7NO
product | 4-chloro-N-[(1R)-1-cyclopropylethyl]-2,5-difluorobenzamide | 0.075 g, 96% | ClC1=CC(=C(C(=O)N[C@H](C)C2CC2)C=C1F)F | C12H12ClF2NO
